US06281230B1
A stirred mixture of α-amino-α-methylglutarimide hydrochloride (1.2 g, 6.7 mmol), 3-nitrophthalic anhydride (1.3 g, 6.7 mmol), and sodium acetate (0.6 g, 7.4 mmol) in acetic acid (30 mL) was heated to reflux under nitrogen for 6 hours. The mixture then was cooled and concentrated in vacuo. The resulting solid was slurried in water (30 mL) and methylene chloride (30 mL) for 30 min. The suspension was filtered, the solid was washed with methylene chloride, and dried in vacuo (60° C., <1 mm) to afford 1.44 g (68%) of 3-(3-nitrophthalimido)-3-methylpiperidine-2,6-dione as a off-white solid: mp 265-266.5° C.; 1HMR (DMSO-d6) δ11.05 (s, 1H), 8.31 (dd, J=1.1 and 7.9 Hz, 1H), 8.16-8.03 (m, 2H), 2.67-2.49 (m, 3H), 2.08-2.02 (m, 1H), 1.88 (s, 3H); 13C NMR (DMSO-d6) δ172.20, 171.71, 165.89, 163.30, 144.19, 136.43, 133.04, 128.49, 126.77, 122.25, 59.22, 28.87, 28.49, 21.04; HPLC, Water Nova-Pak/C18 column, 4 micron, 1 mL/min, 240 nm, 20/80 CH3CN/0.1% H3PO4(aq), 7.38 min(98%). Anal. Calcd For C14H11N3O6: C, 53.00; H, 3.49; N, 13.24. Found: C, 52.77; H, 3.29; N, 13.00.

reactant | α-amino-α-methylglutarimide hydrochloride | 6.7 mmol, 1.2 g | Cl.NC1(C(=O)NC(CC1)=O)C
reactant | 3-nitrophthalic anhydride | 6.7 mmol, 1.3 g | [N+](=O)([O-])C1=C2C(C(=O)OC2=O)=CC=C1 | C8H3NO5
reactant | sodium acetate | 7.4 mmol, 0.6 g | C(C)(=O)[O-].[Na+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 3-(3-nitrophthalimido)-3-methylpiperidine-2,6-dione | 1.44 g, 68% | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)C2(C(NC(CC2)=O)=O)C)=CC=C1 | C14H11N3O6
